* Potentiometer
.subckt pot100k 1 2 3 value=50k
R1 1 2 {100k-value}
R2 2 3 {value}
.ends pot100k

* 5mm LEDs
.MODEL LedRed D (IS=93.2P RS=42M N=3.73 BV=4 IBV=10U CJO=2.97P VJ=.75 M=.333 TT=4.32U Iave=40m Vpk=4)

* W237-4 screw terminal providing voltage vcc
.subckt w237_4 VCC GND SCL SDA
V1 VCC GND 5
R1 GND 0 0
.ends w237_4

* Switch
.subckt swspdt 1 2 3 tswitch=1 ron=100m roff=10Meg
R1 1 2 {time<tswitch ? ron : roff}
R2 2 3 {time>tswitch ? ron : roff}
.ends swspdt

* ATTiny84
* VCC PB0 PB1 PB3 PB2 PA7 PA6 PA5 PA4 PA3 PA2 PA1 PA0 GND
.subckt attiny84 1 2 3 4 5 6 7 8 9 10 11 12 13 14
R1 1 14 10Meg
R2 2 14 10Meg
R3 3 14 10Meg
R4 4 14 10Meg
R5 5 14 10Meg
R6 6 14 10Meg
R7 7 14 10Meg
R8 8 14 10Meg
R9 9 14 10Meg
R10 10 14 10Meg
R11 11 14 10Meg
R12 12 14 10Meg
R12 13 14 10Meg
.ends attiny84

* 74HC595N serial to parallel converter
* QB QC QD QE QF QG QH GND QH' nSRCLR SRCLK RCLK nOE SER QA VCC
.subckt ti74hc595n 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
VA 15 8 0
VB 1 8 0
VC 2 8 0
BD 3 8 v=v(16,8)
VE 4 8 0
VF 5 8 0
VG 6 8 0
BH 7 8 v=v(16,8)
R9 9 8 10Meg
R10 10 8 10Meg
R11 11 8 10Meg
R12 12 8 10Meg
R13 13 8 10Meg
R14 14 8 10Meg
.ends ti74hc595n

* ACS712ELCTR current measurement IC
* IP+ IP+ IP- IP- GND FILTER VIOUT VCC
.subckt acs712elctr 1 2 3 4 5 6 7 8 sens=0.185
RIP1 1 2 0
RIP2 3 4 0
VMEAS 1 3 0
HIOUT 7 9 VMEAS {sens}
BOFF 9 5 v=v(8,5)/2
RF 6 5 10Meg
.ends acs712elctr

* LTS-4301P diode model
* TODO: update to be more awesomer
.model d_lts4301p D (IS=93.2p N=3.73 BV=5 IBV=100u VJ=1.8 TT=4.32u Vpk=5)

* LTS-4301P 7 segment display
.subckt lts4301p 1 2 3 4 5 6 7 8 9 10
RK 8 3 0
DA 10 8 d_lts4301p
DB 9 8 d_lts4301p
DC 7 8 d_lts4301p
DD 5 3 d_lts4301p
DE 4 3 d_lts4301p
DF 2 3 d_lts4301p
DG 1 3 d_lts4301p
DDP 6 8 d_lts4301p
.ends lts4301p

* CD4511B CD-to-7 segment latch/decoder/driver
* TODO: add latch functionality
.subckt cd4511b Bin Cin nLT nBL LE Din Ain GND e d c b a g f VCC VOH=4.55 ROUT=40 VIL=1.5 VIH=3.5
RnLT nLT GND 10Meg
RnBL nBL GND 10Meg
RLE LE GND 10Meg
Ba aout GND v={(v(nLT,GND)<VIL || (v(nBL,GND)>VIH && ((v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)>VIH && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)>VIH && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)<VIL && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)>VIH && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)>VIH) || (v(Ain,GND)>VIH && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)>VIH)))) ? VOH : 0}
Ra a aout {ROUT}
Bb bout GND v={(v(nLT,GND)<VIL || (v(nBL,GND)>VIH && ((v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)>VIH && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)>VIH && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)>VIH && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)>VIH) || (v(Ain,GND)>VIH && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)>VIH)))) ? VOH : 0}
Rb b bout {ROUT}
Bc cout GND v={(v(nLT,GND)<VIL || (v(nBL,GND)>VIH && ((v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)>VIH && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)<VIL && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)>VIH && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)>VIH && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)>VIH) || (v(Ain,GND)>VIH && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)>VIH)))) ? VOH : 0}
Rc c cout {ROUT}
Bd dout GND v={(v(nLT,GND)<VIL || (v(nBL,GND)>VIH && ((v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)>VIH && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)>VIH && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)<VIL && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)>VIH && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)>VIH)))) ? VOH : 0}
Rd d dout {ROUT}
Be eout GND v={(v(nLT,GND)<VIL || (v(nBL,GND)>VIH && ((v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)>VIH && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)>VIH && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)>VIH)))) ? VOH : 0}
Re e eout {ROUT}
Bf fout GND v={(v(nLT,GND)<VIL || (v(nBL,GND)>VIH && ((v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)<VIL && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)>VIH && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)>VIH) || (v(Ain,GND)>VIH && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)>VIH)))) ? VOH : 0}
Rf f fout {ROUT}
Bg gout GND v={(v(nLT,GND)<VIL || (v(nBL,GND)>VIH && ((v(Ain,GND)<VIL && v(Bin,GND)>VIH && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)>VIH && v(Cin,GND)<VIL && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)>VIH && v(Bin,GND)<VIL && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)>VIH && v(Cin,GND)>VIH && v(Din,GND)<VIL) || (v(Ain,GND)<VIL && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)>VIH) || (v(Ain,GND)>VIH && v(Bin,GND)<VIL && v(Cin,GND)<VIL && v(Din,GND)>VIH)))) ? VOH : 0}
Rg g gout {ROUT}
.ends cd4511b
